US03988444
A mixture of 4 g of 4-carbomethoxy-2,3,4,5,6,7-hexahydrobenzothiazoline-2-one, 3 g of potassium carbamate and 50 ml of acetone was refluxed for 1 hour and after the addition of 4 g of O,O-diethyl chlorothiophosphate, the mixture was refluxed for another hour. The mixture was stirred for 18 hours at room temperature and the mineral salts formed were filtered off. The filtrate was distilled to dryness under reduced pressure and the residue was chromatographed over silica gel. Elution with an 8-2 cyclohexane-ethyl acetate mixture yielded 1.5 g of 2-(diethoxythiophosphoryloxy)-4-carbomethoxy-4,5,6,7-tetrahydrobenzothiazole with a refractive index nD26 = 1.5261.

reactant | 4-carbomethoxy-2,3,4,5,6,7-hexahydrobenzothiazoline-2-one | 4 g | C(=O)(OC)C1CCCC2=C1NC(S2)=O | C9H11NO3S
reactant | potassium carbamate | 3 g | C(N)([O-])=O.[K+]
reactant | O,O-diethyl chlorothiophosphate | 4 g | P(=S)(OCC)(OCC)Cl | C4H10ClO2PS
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-(diethoxythiophosphoryloxy)-4-carbomethoxy-4,5,6,7-tetrahydrobenzothiazole | 1.5 g | C(C)OP(=S)(OCC)OC=1SC2=C(N1)C(CCC2)C(=O)OC | C13H20NO5PS2
